US07732604B2
To a solution of 6-(6-bromo-[1,2,3]triazolo[4,5-b]pyrazin-1-ylmethyl)-quinoline (2 g, 5.86 mmol) in ACN (47 mL) (degassed 3 times with nitrogen) was added Pd(PPh3)2Cl2 (205 mg, 0.293 mmol), CuI (167 mg, 0.879 mmol), and butyl-(1-ethoxy-vinyl)-stannane (5.9 mL, 17.59 mmol). The reaction was refluxed for 4 hours until the LC-MS showed complete product. The reaction was filtered over a celite pad and washed with ether (100 mL). The solution was washed with water (1×50 mL), dried over Na2SO4, and concentrated. The crude product was purified by silica gel column chromatography with EtOAc:Hexanes to give 1.05 g of the product 6-[6-(1-ethoxy-vinyl)-[1,2,3]triazolo[4,5-b]pyrazin-1-ylmethyl]-quinoline (55% yield).

reactant | 6-(6-bromo-[1,2,3]triazolo[4,5-b]pyrazin-1-ylmethyl)-quinoline | 5.86 mmol, 2 g | BrC1=CN=C2C(=N1)N(N=N2)CC=2C=C1C=CC=NC1=CC2 | C14H9BrN6
reactant | butyl-(1-ethoxy-vinyl)-stannane | 17.59 mmol, 5.9 mL | C(CCC)[SnH2]C(=C)OCC
solvent | ACN | 47 mL | C(C)#N | C2H3N
catalyst | Pd(PPh3)2Cl2 | 0.293 mmol, 205 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 0.879 mmol, 167 mg | [Cu]I
product | 6-[6-(1-ethoxy-vinyl)-[1,2,3]triazolo[4,5-b]pyrazin-1-ylmethyl]-quinoline | 55% yield | C(C)OC(=C)C1=CN=C2C(=N1)N(N=N2)CC=2C=C1C=CC=NC1=CC2 | C18H16N6O
